US05679683
A solution of methyl 3-aminobenzo[b]furan-2-carboxylate (0.28 g, 1.36 mmol) in formamide (5 mL) is heated at 135 C. for 4 h, then the temperature is raised to 170 C. After 4 h the reaction is cooled to 25° C. and a dark purple solid precipitates. The solid is collected by vacuum filtration and air dried to give 3H-benzofurano[3,2-d]pyrimid-4-one (118 mg, 46.6%). 1H NMR (DMSO) δ13.0 (1H, brs), 8.25 (1H, s), 8.05 (1H, d, J =8.1 Hz), 7.84 (1H, d, J=8.3 Hz), 7.68 (1H, t, J=7.7 Hz), 7.51 (1H, t, J=7.7 Hz).

reactant | methyl 3-aminobenzo[b]furan-2-carboxylate | 1.36 mmol, 0.28 g | NC=1C2=C(OC1C(=O)OC)C=CC=C2 | C10H9NO3
reactant | formamide | 5 mL | C(=O)N | CH3NO
product | 3H-benzofurano[3,2-d]pyrimid-4-one | 118 mg, 46.6% | N1=CNC(C2=C1C1=C(O2)C=CC=C1)=O | C10H6N2O2
